US07365225B2
[4-({[(2-{4-[(octylamino)carbonyl]phenyl}-1,3-thiazol-4-yl)methyl][4-(trifluoromethyl)benzoyl]amino}methyl)phenoxy]acetic acid
The title compound was prepared following the procedure A using octylamine, 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride, 4-(trifluoromethyl)benzoyl chloride and methyl[4-(aminomethyl)phenoxy]acetate, acetate salt. M+(ESI): 682.1

reactant | octylamine | C(CCCCCCC)N | C8H19N
reactant | 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride | ClCC=1N=C(SC1)C1=CC=C(C(=O)Cl)C=C1 | C11H7Cl2NOS
reactant | 4-(trifluoromethyl)benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | methyl[4-(aminomethyl)phenoxy]acetate | COC(COC1=CC=C(C=C1)CN)=O | C10H13NO3
product | [4-({[(2-{4-[(octylamino)carbonyl]phenyl}-1,3-thiazol-4-yl)methyl][4-(trifluoromethyl)benzoyl]amino}methyl)phenoxy]acetic acid | C(CCCCCCC)NC(=O)C1=CC=C(C=C1)C=1SC=C(N1)CN(C(C1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(OCC(=O)O)C=C1 | C36H38F3N3O5S
